US07507740B2
(i) Production of 5-(3-chloropropyl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine
A mixture of 4-chloro-5-(3-chloropropyl)-5H-pyrrolo[3,2-d]pyrimidine (789 mg), 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline (1.09 g) and isopropyl alcohol (5 mL) was stirred at 80° C. for 4.5 hrs. The mixture was concentrated under reduced pressure, saturated aqueous sodium hydrogen carbonate (30 mL) was added to the residue, and the mixture was extracted with ethyl acetate (40 mL×3). The organic layers were combined, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=90:10→20:80) to give the title compound (1.46 g).

reactant | 4-chloro-5-(3-chloropropyl)-5H-pyrrolo[3,2-d]pyrimidine | 789 mg | ClC=1C2=C(N=CN1)C=CN2CCCCl | C9H9Cl2N3
reactant | 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline | 1.09 g | ClC=1C=C(N)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C13H9ClF3NO
solvent | isopropyl alcohol | 5 mL | C(C)(C)O | C3H8O
product | 5-(3-chloropropyl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 1.46 g | ClCCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)Cl | C22H17Cl2F3N4O
